US09340538B2
Step D: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-(trifluoromethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(5-(trifluoromethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.44 g, 0.89 mmol) was reacted with NBS (0.17 g, 0.94 mmol) in DCM (30 mL) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.37 g, 72%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(5-(trifluoromethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.89 mmol, 0.44 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC(=CN1)C(F)(F)F | C18H14BrF4N3O2S
reactant | NBS | 0.94 mmol, 0.17 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-(trifluoromethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.37 g, 72% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC(=CN1)C(F)(F)F | C18H13Br2F4N3O2S
